US07244730B2
(Step 4) N1-Methyl-4-(aminomethyl)-5-bromo-2-ethoxybenzamide
After dissolving the N1-methyl-4-(azidomethyl)-5-bromo-2-ethoxybenzamide (5.32 g) in tetrahydrofuran (50 ml) and water (3 ml), triphenylphosphine (5.4 g) was added and the mixture was stirred at room temperature for 4 days. The reaction mixture was concentrated and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (5.11 g) as a light yellow solid.

reactant | N1-methyl-4-(azidomethyl)-5-bromo-2-ethoxybenzamide | 5.32 g | CNC(C1=C(C=C(C(=C1)Br)CN=[N+]=[N-])OCC)=O | C11H13BrN4O2
reactant | triphenylphosphine | 5.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | N1-Methyl-4-(aminomethyl)-5-bromo-2-ethoxybenzamide | 5.11 g | CNC(C1=C(C=C(C(=C1)Br)CN)OCC)=O | C11H15BrN2O2
